US05380865
5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole-4-carboxylic acid (1.4 g, 0.004 mol) in 2-methoxyethyl ether (11 ml) whilst maintaining the temperature at about 0° C. Potassium fluoride (0.67 g, 0.0115 mol) was added and the mixture was stirred at 0° C. for 0.5 hours, and added slowly to a solution of diethylamine (8.8 g, 12.5 ml, 0.12 mol) in dichloromethane (75 ml) whilst maintaining the temperature in the range 0°-5° C. The mixture was stirred at 0°-5° C. for 1 hour and at room temperature for 0.5 hours. The mixture was washed with saturated aqueous sodium bicarbonate solution (50 ml), dried over anhydrous sodium sulphate and evaporated to dryness. The residue was purified by mplc on silica eluting with a mixture of ethyl acetate and dichloromethane (1:2) to give N,N-diethyl 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)imidazole-4-carboxamide (0.26 g) m.p. 195°- 197° C. as an off-white solid.

reactant | 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole-4-carboxylic acid | 0.004 mol, 1.4 g | C(#N)C1=C(N=C(N1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O | C12H4Cl2F3N3O2
reactant | Potassium fluoride | 0.0115 mol, 0.67 g | [F-].[K+]
reactant | diethylamine | 0.12 mol, 12.5 ml, 8.8 g | C(C)NCC | C4H11N
solvent | 2-methoxyethyl ether | 11 ml | COCCOCCOC | C6H14O3
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | N,N-diethyl 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)imidazole-4-carboxamide | 0.26 g | C(C)N(C(=O)C=1N=C(NC1C#N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)CC | C16H13Cl2F3N4O
